US09328099B2
tert-Butyl 4-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidine-1-carboxylate
To a mixture of 3-(phenylamino)-1H-pyrazole-4-carboxamide, Intermediate 31-1, (1.4 g, 6.9 mmol) and tert-butyl 4-(cyanomethylidene)piperidine-1-carboxylate, Intermediate 19-1 (3.1 g, 13.8 mmol) in acetonitrile (23 mL) was added DBU (1.0 mL, 6.9 mmol), and maintained at ambient temperature for 18 hours. The mixture was diluted with water, extracted with EtOAc, and the combined organics were washed with brine, dried over anhydrous MgSO4, and filtered. The filtrate was adsorbed onto silica gel in vacuo and then purified by MPLC on silica gel (using a gradient elution of 0-80% EtOAc/DCM) to afford the title compound, Example #2-1.

reactant | 3-(phenylamino)-1H-pyrazole-4-carboxamide | C1(=CC=CC=C1)NC1=NNC=C1C(=O)N | C10H10N4O
reactant | tert-butyl 4-(cyanomethylidene)piperidine-1-carboxylate | C(#N)C=C1CCN(CC1)C(=O)OC(C)(C)C | C12H18N2O2
reactant | DBU | 6.9 mmol, 1.0 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 23 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | tert-Butyl 4-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CC#N)NC1=CC=CC=C1 | C22H28N6O3
